US07521480B2
2-Amino-4-chloro-benzenesulfonic acid
Concentrated sulphuric acid (specific gravity. 1.84) (13.9 ml, 250 mmol) was diluted with 100 ml of water. 3-Chloro-aniline (31.9 g, 250 mmol) was added over 30 minutes while temperature was kept at 85° C. During the addition some precipitation occurred. The suspension was allowed to cool to room temperature and heavy precipitation was formed. The solid is filtered with suction to yield white crystalline solid. The solid was heated slowly to 200° C. under vacuum (water pump) and fitted with a water trap. The solid was kept at 200° C. for 7 hours. Water was lost from the crystalline material. The solid was allowed to cool and then dissolved in dilute aqueous NaOH and precipitated with hydrochloric acid. Yielded 25 g (48%) of the title compound as a white crystalline solid (m.p. >250° C.).

reactant | sulphuric acid | 250 mmol, 13.9 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-Chloro-aniline | 250 mmol, 31.9 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | water | 100 ml | O | H2O
solvent | NaOH | [OH-].[Na+]
product | 2-Amino-4-chloro-benzenesulfonic acid | 25 g, 48% | NC1=C(C=CC(=C1)Cl)S(=O)(=O)O | C6H6ClNO3S
